US07790723B2
Analogously to Example 2, reaction of 300 mg of 3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazine with 307 mg of 4-methyl-2-pyrazin-2-yl-thiazole-5-carbonyl chloride (“BC”) gives the compound 1-[3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazin-1-yl]-1-(4-methyl-2-pyrazin-2-yl-thiazol-5-yl)methanone (484 mg, HPLC-MS m/e 438).

reactant | 3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazine | 300 mg | C(C)OC=1C=C(C=CC1OC)C1=NNCCC1 | C13H18N2O2
reactant | 4-methyl-2-pyrazin-2-yl-thiazole-5-carbonyl chloride | 307 mg | CC=1N=C(SC1C(=O)Cl)C1=NC=CN=C1 | C9H6ClN3OS
product | 1-[3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazin-1-yl]-1-(4-methyl-2-pyrazin-2-yl-thiazol-5-yl)methanone | 484 mg | C(C)OC=1C=C(C=CC1OC)C1=NN(CCC1)C(=O)C1=C(N=C(S1)C1=NC=CN=C1)C | C22H23N5O3S
